US06436923B1
C. 1-(4-Hydroxybenzyl)-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline
A solution of 1-{4-(phenylmethoxy)benzyl}-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline (0.60 g, 1.38 mmol), palladium (5% wt. on activated carbon, 0.06 g), and glacial acetic acid (3 drops) in ethanol (30 mL) was stirred under hydrogen for 15 hours. The reaction was filtered and concentrated to provide the title compound (0.30 g, 63% yield): ES-MS (m/z) 346 [M+H]+.

reactant | 1-{4-(phenylmethoxy)benzyl}-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.38 mmol, 0.60 g | C1(=CC=CC=C1)COC1=CC=C(CC2N(CCC3=CC(=CC=C23)OC)C2=CC=CC=C2)C=C1 | C30H29NO2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium | 0.06 g | [Pd] | Pd
product | 1-(4-Hydroxybenzyl)-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline | 0.30 g, 63% yield | OC1=CC=C(CC2N(CCC3=CC(=CC=C23)OC)C2=CC=CC=C2)C=C1 | C23H23NO2
